US06887896B1
3-Bromo-8,8-dimethyl-5,6,7,8-tetrahydronaphthalen-2-ol (Compound A-2)
To 6-bromo-7-methoxy-1,2-dimethyl-1,2,3,4-tetrahydro-naphthalene (Compound A-1 ([U.S. Pat. No. 6,613,917, incorporated herein by reference), 6.34 g, 23.56 mmol) in dichloromethane (10 mL) at −30° C. was added a solution of boron tribromide (1.0 M in dichloromethane, 47 mL, 47 mmol). After warming to 0° C. over 1 h, the reaction mixture was quenched carefully with ice water and extracted with ether. The organic layer was washed successively with water, brine, dried over Na2SO4, and concentrated in vacuo. Purification by flash column chromatography (silica gel, 5% ethyl acetate/hexane) yielded the title compound as a white solid.

reactant | 6-bromo-7-methoxy-1,2-dimethyl-1,2,3,4-tetrahydro-naphthalene | BrC=1C=C2CCC(C(C2=CC1OC)C)C | C13H17BrO
reactant | boron tribromide | 47 mmol, 1.0 M, 47 mL | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-Bromo-8,8-dimethyl-5,6,7,8-tetrahydronaphthalen-2-ol | BrC=1C(=CC=2C(CCCC2C1)(C)C)O | C12H15BrO
